US07250443B2
Preparation of 2-{3-[4-(2,4-dichlorophenyl)-3-nitropyrrolyl]propyl}benzo[c]azoline-1,3-dione (4)
The NaH (1.2 eq) was added to a dry flask under argon. To NaH suspended in DMF, was added a solution of 4-(2,4-dichlorophenyl)-3-nitropyrrole (1 eq) in DMF with stirring at RT. After the evolution of gas bubbles had stopped, the reaction stirred for an additional 15 min at which time a solution of 3-bromopropyl phthalimide (1.1 eq) in DMF was added to the yellow-brown solution. After 2 hours, the clear brown reaction was complete (determination by TLC: CH2Cl2/acetonitrile (95:5 v/v), the UV active product was at Rf=0.5). Upon completion, the reaction was quenched with half sat. aq. NH4Cl (added slowly to avoid strong gas evolution and exotherm). EtOAc was added, and after shaking the ivory colored precipitate which formed during the quench was collected by filtration. The organic layer was washed with water, brine, dried (Na2SO4), filtered, and concentrated to give the desired product as an ivory solid. Both portions of product were combined to afford (−94% yield) 95% pure 2-{3-[4-(2,4-dichlorophenyl)-3-nitropyrrolyl]propyl}benzo[c]azoline-1,3-dione (4), which was used without further purification (LC/MS m/z 445.3 MH+).

reactant | NaH | 1.2 eq | [H-].[Na+]
reactant | 4-(2,4-dichlorophenyl)-3-nitropyrrole | 1 eq | ClC1=C(C=CC(=C1)Cl)C=1C(=CNC1)[N+](=O)[O-] | C10H6Cl2N2O2
reactant | 3-bromopropyl phthalimide | 1.1 eq | BrCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C11H10BrNO2
reactant | CH2Cl2 acetonitrile | C(Cl)Cl.C(C)#N
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-{3-[4-(2,4-dichlorophenyl)-3-nitropyrrolyl]propyl}benzo[c]azoline-1,3-dione | ClC1=C(C=CC(=C1)Cl)C=1C(=C(NC1)CCCN1C(C2=C(C1=O)C=CC=C2)=O)[N+](=O)[O-] | C21H15Cl2N3O4
